US07205326B2
Preparation of 4-Chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazole
4.28 g (18.5 mmol) 3-(4-Trifluoromethoxy-phenyl)-acrylamide, 2.80 g (22.2 mmol) dichloro acetone and 30.0 ml toluene were kept at reflux temperature for 16 h with continuous removal of water by use of a Dean-Stark trap. After removal of solvents in vacuo, the residue was purified by chromatography on silica gel (eluent: heptane/ethyl acetate 20:1). All fractions containing the product were concentrated to a volume of 10 ml and the crystallized material isolated by filtration, washed with cold heptane and dried. 1.75 g (31%) 4-Chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazole.

reactant | 3-(4-Trifluoromethoxy-phenyl)-acrylamide | 18.5 mmol, 4.28 g | FC(OC1=CC=C(C=C1)C=CC(=O)N)(F)F | C10H8F3NO2
reactant | dichloro acetone | 22.2 mmol, 2.80 g | ClC(C(C)=O)Cl | C3H4Cl2O
solvent | toluene | 30.0 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazole | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)OC(F)(F)F | C13H9ClF3NO2
